US05776699
3,4-dihydro-4,4-dimethyl-7-nitro-1(2H)-naphthalenone (Compound Y)
To 1.7 ml (3.0 g, 30.6 mmol, 18M) H2SO4 at -5° C. (ice-NaCl bath) was slowly added 783.0 mg (4.49 mmol) of 3,4-dihydro-4,4-dimethyl-1(2H)-naphthalenone. A solution of 426.7 mg (6.88 mmol, 0.43 ml, 16M) HNO3, and 1.31 g (0.013 mol, 0.74 ml, 18M) H2SO4 was slowly added. After 20 minutes, ice was added and the resulting mixture extracted with EtOAc. The combined extracts were concentrated under reduced pressure to give a residue from which the title compound, a pale yellow solid, was isolated by column chromatography (10% EtOAC/hexanes). 1H NMR (CDCl3): δ 8.83 (1H, d, J=2.6 Hz), 8.31 (1H, dd, J=2.8, 8.9 Hz), 7.62 (1H, d, J=8.7 Hz), 2.81 (2H, t, J=6.5 Hz), 2.08 (2H, t, J=6.5 Hz), 1.45 (6H, s).

reactant | H2SO4 | 30.6 mmol, 18M, 1.7 ml, 3.0 g | OS(=O)(=O)O | H2O4S
reactant | 3,4-dihydro-4,4-dimethyl-1(2H)-naphthalenone | 4.49 mmol, 783.0 mg | CC1(CCC(C2=CC=CC=C12)=O)C | C12H14O
reactant | HNO3 | 6.88 mmol, 16M, 0.43 ml, 426.7 mg | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 0.013 mol, 18M, 0.74 ml, 1.31 g | OS(=O)(=O)O | H2O4S
product | 3,4-dihydro-4,4-dimethyl-7-nitro-1(2H)-naphthalenone | CC1(CCC(C2=CC(=CC=C12)[N+](=O)[O-])=O)C | C12H13NO3
